US07109340B2
55 mg of Pd/CaCO3 10% are added to a solution of 545 mg of 3-(5,6-dimethyl-1H-benzimidazol-2-yl)-6-(5-nitropyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine in 60 ml of ethanol. After stirring for 15 hours at 35° C. under 3 bar of hydrogen, the reaction medium is brought back to ambient temperature, filtered through celite and then concentrated under reduced pressure. 300 mg of 6-[3-(5,6-dimethyl-1H-benzimidazol-2-yl)-2,4,5,7-tetrahydropyrazolo [3,4-c]pyridin-6-yl]-pyridin-3-ylamine are thus obtained in the form of a brown powder, the characteristics of which are as follows:

reactant | 3-(5,6-dimethyl-1H-benzimidazol-2-yl)-6-(5-nitropyridin-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine | 545 mg | CC1=CC2=C(NC(=N2)C=2NN=C3CN(CCC32)C3=NC=C(C=C3)[N+](=O)[O-])C=C1C | C20H19N7O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd CaCO3 | 55 mg | [Pd].C(=O)([O-])[O-].[Ca+2]
product | 6-[3-(5,6-dimethyl-1H-benzimidazol-2-yl)-2,4,5,7-tetrahydropyrazolo [3,4-c]pyridin-6-yl]-pyridin-3-ylamine | 300 mg | CC1=CC2=C(NC(=N2)C=2NN=C3CN(CCC32)C3=CC=C(C=N3)N)C=C1C | C20H21N7
